US06063782
7-Benzyloxy-2,3-dimethyl-1-(2-pentenyl)pyrrolo[2,3-d]pyridazine
The title compound (trans) was prepared as a white powder in 75.9% yield in a similar procedure to that described in Example 1 by using 7-chloro-2,3-dimethyl-1-(2-pentenyl)pyrrolo[2,3-d]pyridazine (trans) and benzyl alcohol.

reactant | 7-chloro-2,3-dimethyl-1-(2-pentenyl)pyrrolo[2,3-d]pyridazine | ClC=1N=NC=C2C1N(C(=C2C)C)CC=CCC | C13H16ClN3
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
product | 7-Benzyloxy-2,3-dimethyl-1-(2-pentenyl)pyrrolo[2,3-d]pyridazine | 75.9% yield | C(C1=CC=CC=C1)OC=1N=NC=C2C1N(C(=C2C)C)CC=CCC | C20H23N3O
